US09334278B2
To a solution of N-tert-butyl-2-(3-methyl-1H-pyrazol-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (25 mg, 56.4 μmol) in dichloromethane (1 mL) was added trifluoroacetic acid (129 mg, 86.8 μL, 1.13 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained diluted with dichloromethane (1 mL), methanol (0.5 mL) and ammonium hydroxide (0.15 mL) and stirred at room temperature for 1 h. Purification by chromatography (silica, 20-50% [10% methanol/dichloromethane/0.5% ammonium hydroxide]/dichloromethane) gave N-tert-butyl-2-(3-methyl-1H-pyrazol-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (10 mg, 31.9 μmol, 57%) as a light brown solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.19 (s, 1H), 10.12 (s, 1H), 9.53 (s, 1H), 8.07 (s, 1H), 7.93 (d, J=3.0, 1 H), 7.81 (s, 1H), 6.33 (s, 1H), 2.19 (s, 3H), 1.45 (s, 9H); MS (EI/CI) m/z: 314.1 [M+H].

reactant | N-tert-butyl-2-(3-methyl-1H-pyrazol-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 56.4 μmol, 25 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=CC(=NN2)C)COCC[Si](C)(C)C | C21H33N7O2Si
reactant | trifluoroacetic acid | 1.13 mmol, 86.8 μL, 129 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | methanol | 0.5 mL | CO | CH4O
solvent | ammonium hydroxide | 0.15 mL | [OH-].[NH4+]
product | N-tert-butyl-2-(3-methyl-1H-pyrazol-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 31.9 μmol, 10 mg, 57% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=CC(=NN2)C | C15H19N7O
